US06887896B1
Acetic acid 1-(4-bromo-3-methoxy-5,5-dimethyl-8-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethyl ester (Compound A-99)
To a suspension of chromium (VI) oxide (160 mg, 1.6 mmol) in dichloromethane (40 mL) at 0° C. was added tert-butyl hydroperoxide (13 mL, 96 mmol). After stirring at room temperature for 5 min, a solution of acetic acid 1-(4-bromo-3-methoxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethyl ester (Compound A-97, 11.4 g, 32 mmol) in dichloromethane (10 mL) was added. The mixture was stirred at room temperature for 6 days and then quenched with 10% sodium bisulfite.). Organic phase was washed with 10% sodium bisulfite and brine, dried (Na2SO4), filtered and concentrated in vacuo. Recrystallization from ethyl acetate and flash column chromatography of the mother liquid (silica gel, 10% ethyl acetate in hexane) afforded the title compound as a yellow solid.

reactant | tert-butyl hydroperoxide | 96 mmol, 13 mL | C(C)(C)(C)OO | C4H10O2
reactant | acetic acid 1-(4-bromo-3-methoxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethyl ester | 32 mmol, 11.4 g | BrC1=C(C(=CC=2CCCC(C12)(C)C)C(C)OC(C)=O)OC | C17H23BrO3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | chromium (VI) oxide | 1.6 mmol, 160 mg | [O-2].[Cr+6].[O-2].[O-2]
product | Acetic acid 1-(4-bromo-3-methoxy-5,5-dimethyl-8-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethyl ester | BrC1=C(C(=CC=2C(CCC(C12)(C)C)=O)C(C)OC(C)=O)OC | C17H21BrO4
